US08202873B2
1-Cyclopropylmethyl-1H-pyrazole-4-carbaldehyde
Add 1H-pyrazole-4-carbaldehyde (0.200 g, 2.08 mmol) to a suspension of sodium hydride (0.092 g, 2.29 mmol) in DMF (3 mL) at 0° C. Stir for 20 min. at 0° C. Add a solution of 1-(bromomethyl)cyclopropane (0.295 g, 2.18 mmol) in DMF (4 mL) dropwise to the reaction mixture. Stir reaction to ambient temperature for 18 hr. Quench with aqueous saturated sodium bicarbonate solution and add ethyl acetate. Separate organic layer. Extract aqueous layer twice with ethyl acetate, dry combined organics (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 60:40 ethyl acetate:hexanes) to give the title preparation (175 mg, 56%). GC-MS: m/z=150 [M+].

reactant | 1H-pyrazole-4-carbaldehyde | 2.08 mmol, 0.200 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | sodium hydride | 2.29 mmol, 0.092 g | [H-].[Na+]
reactant | 1-(bromomethyl)cyclopropane | 2.18 mmol, 0.295 g | BrCC1CC1 | C4H7Br
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-Cyclopropylmethyl-1H-pyrazole-4-carbaldehyde | C1(CC1)CN1N=CC(=C1)C=O | C8H10N2O
